Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.6957384153699993
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3][C:4]([H:5])[H:6],2.09948583401
[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]=[O:4],0.96400029639
[C:11]([H:12])[H:13].[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-4.41140440868
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.6395265734
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.19496689866
[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.20022356051
[C:7]([H:8])#[C:9][H:10].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-1.3188217734299998
[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.55846186747
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2],6.50511529253
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-8.79323685929
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],3.69178713485
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.26978635312
[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-5.07523070362
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-2.89378401403
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],3.86552489879
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.50565570666
[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-2.88084696561
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.444162467409999
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],1.21910262021
[C:5]([H:6])#[C:7][H:8].[H:1][C:2][O:3][C:4][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.79988371131
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])[H:14],4.48772880624
[H:12].[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.56857883335
[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-5.63747039478
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:10]([H:11])#[C:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],1.43212028075
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.46735732187
[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],2.0097167904
[H:1][C:2]1[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10]1>>[H:1][C:2](=[C:3]=[O:4])[O:10][C:7]([C:5][H:6])([H:8])[H:9],1.11537265297
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],8.29524814
